US08053438B2
A mixture of (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone (0.98 g, 4.11 mmol), cesium carbonate (1.34 g, 4.11 mmol), and 2-chloro-3-cyclopentylpyrazine (0.38 g, 2.05 mmol) in 1-methyl-2-pyrrolidinone (2 mL) under argon was heated to 140° C. for 24 h. The mixture was cooled to room temperature and then partitioned between ethyl acetate and water. The resulting layers were separated and the organic layer was washed with 1N aqueous sodium hydroxide (2×), saturated aqueous sodium chloride (1×), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The resulting oil was purified by silica gel chromatography to give (1H-benzo[d]imidazol-2-yl)(4-(3-cyclopentylpyrazin-2-yloxy)phenyl)methanone. MS (ESI, pos. ion) m/z: 385.2 (M+1). IC50 (uM) ++++.

reactant | (1H-benzo[d]imidazol-2-yl)(4-hydroxyphenyl)methanone | 4.11 mmol, 0.98 g | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)O | C14H10N2O2
reactant | cesium carbonate | 4.11 mmol, 1.34 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloro-3-cyclopentylpyrazine | 2.05 mmol, 0.38 g | ClC1=NC=CN=C1C1CCCC1 | C9H11ClN2
solvent | 1-methyl-2-pyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | (1H-benzo[d]imidazol-2-yl)(4-(3-cyclopentylpyrazin-2-yloxy)phenyl)methanone | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C2CCCC2 | C23H20N4O2
